US04753953
1-Cyclopropyl-6,8-difluoro-1,4-dihydro-7-(3-methylaminomethyl-4-methyl-1-pyrrolidinyl)-4-oxo-3-quinolinecarboxylic acid
A mixture of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (0.5 g), anhydrous acetonitrile (5 ml), 3-methylaminomethyl-4-methylpyrrolidine (0.34 g) and DBU (0.27 g) was refluxed for an hour and allowed to stand overnight at room temperature. The resulting precipitate was collected by filtration, washed with acetonitrile and ether successively and recrystallized from chloroform-methanol-concentrated aqueous ammonia to give the title compound (0.41 g) as white powder, mp 252°-254° C.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.5 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 3-methylaminomethyl-4-methylpyrrolidine | 0.34 g | CNCC1CNCC1C | C7H16N2
reactant | DBU | 0.27 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-Cyclopropyl-6,8-difluoro-1,4-dihydro-7-(3-methylaminomethyl-4-methyl-1-pyrrolidinyl)-4-oxo-3-quinolinecarboxylic acid | 0.41 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(C(C1)C)CNC)F)=O)C(=O)O | C20H23F2N3O3
